* D:\Users\Shozaburo\Docuement\git\LTSpice\Basic\VoltageDependentVoltageSouce.asc
E1 OUT 0 IN 0 2
R1 0 IN 1k
R2 0 OUT 1k
V1 IN 0 1
.tran 10
.backanno
.end
