* D:\Users\Shozaburo\Docuement\git\LTSpice\DCDC\ErrorAmp.asc
V1 N001 0 0 AC 1
E1 FB 0 0 N002 10000
R1 N002 N001 8.2k
C2 N003 N002 10n
R3 N004 N002 16k
C3 N004 FB 10n
C4 N002 FB 200p
R2 N003 N001 300
.ac dec 20 0.01 1MEG
.backanno
.end
