* D:\Users\Shozaburo\Docuement\git\LTSpice\DCDC\RC_Filter.asc
Ro out1 Vin 100k
R1 N002 out1 500
C1 N002 0 1µ
V1 Vin 0 AC 1
Ro1 N001 Vin 100k
R2 N001 out2 500
C2 out2 0 1µ
.ac dec 20 1m 10MEG
.backanno
.end
