* D:\Users\Shozaburo\Docuement\git\LTSpice\OpAmp\VoltageFollower.asc
Ro out1 Vin 100
R1 out2 out1 100
C1 out2 0 680p
Vin Vin 0 AC 1
Vcc+ N001 0 15
Vcc- N003 0 -15
C2 Out3 0 680p
R2 N002 Out3 {RL}
XU2 Vin N002 N001 N003 N002 LT1128
.ac dec 30 0.001 100MEG
.step param RL LIST 0.1 10 270
.lib LTC.lib
.backanno
.end
